US07648992B2
a) 5-Bromo-2-(methylthio)pyrimidine
The subtitle compound was prepared following a method by Takahashi et al., Chem. Pharm. Bull., 1958, 6, 334-337. To a solution of 5-bromo-2-chloropyrimidine (1.0 g, 5.2 mmol) in EtOH was added sodium methanethiolate (0.36 g, 5.2 mmol) at room temperature and the reaction mixture was stirred overnight. The mixture was partitioned between EtOAc (15 mL) and water (10 mL). The aqueous layer was extracted twice with EtOAc and washed with brine. The combined organic layers were dried and concentrated to give the subtitle compound as a white solid (1.1 g).

reactant | 5-bromo-2-chloropyrimidine | 5.2 mmol, 1.0 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | sodium methanethiolate | 5.2 mmol, 0.36 g | C[S-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-Bromo-2-(methylthio)pyrimidine | 1.1 g | BrC=1C=NC(=NC1)SC | C5H5BrN2S
